US07842685B2
Argon was bubbled through a slurry of 2-(4-(1,3-dioxan-2-yl)-2-fluorophenyl)-5-benzylthiazolo[5,4-b]pyridine (1.00 g, 2.46 mmol) in 20 mL DMF for 5 min. To the rapidly stirring reaction mixture was added LiHMDS 1.0M in THF (2.71 mL, 2.71 mmol) rapidly dropwise. The resulting deep blue reaction mixture was stirred for 2 min, at which point 4-bromo-1-butene (0.499 mL, 4.92 mmol) was added rapidly via syringe. The color of the reaction slowly became purple over 5 min, then brown over about 10-15 min additional. After 1.5 h, the reaction mixture was quenched with sat'd aq. NH4Cl and MTBE. The organic layer was washed with water, brine, dried over sodium sulfate, filtered, and concentrated in vacuo to give 2-(4-(1,3-dioxan-2-yl)-2-fluorophenyl)-5-(1-phenylpent-4-enyl)thiazolo[5,4-b]pyridine as an orange solid MS (ESI) m/z: Calculated: 460.2; Observed: 461.1 (M++1).

reactant | 2-(4-(1,3-dioxan-2-yl)-2-fluorophenyl)-5-benzylthiazolo[5,4-b]pyridine | 2.46 mmol, 1.00 g | O1C(OCCC1)C1=CC(=C(C=C1)C=1SC2=NC(=CC=C2N1)CC1=CC=CC=C1)F | C23H19FN2O2S
reactant | LiHMDS | 1.0M | [Li+].C[Si](C)(C)[N-][Si](C)(C)C
reactant | THF | 2.71 mmol, 2.71 mL | C1CCOC1 | C4H8O
reactant | 4-bromo-1-butene | 4.92 mmol, 0.499 mL | BrCCC=C | C4H7Br
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
product | 2-(4-(1,3-dioxan-2-yl)-2-fluorophenyl)-5-(1-phenylpent-4-enyl)thiazolo[5,4-b]pyridine | O1C(OCCC1)C1=CC(=C(C=C1)C=1SC2=NC(=CC=C2N1)C(CCC=C)C1=CC=CC=C1)F | C27H25FN2O2S
